US07777047B2
N-methyl-N-(2-{5-[(1-methyl-4,5-dihydro-1H-pyrazol-3-yl)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide
A mixture of N-methyl-N-{2-[5-(2-oxobut-3-en-1-yl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide (250 mg), methylhydrazine (0.050 mL) and tetrahydrofuran (20 mL) was stirred at room temperature for 3 hr. The reaction solution was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Ethyl acetate was added to the obtained residue, the insoluble substance was filtered off, and the filtrate was concentrated. The obtained residue was subjected to basic silica gel column chromatography (ethyl acetate:hexane=3:7-5:5), and the obtained colorless oil was crystallized from ethyl acetate-hexane to give the title compound (156 mg, yield: 59%) as colorless needle crystals. MS: 474 (MH+). melting point 149-150° C.

reactant | N-methyl-N-{2-[5-(2-oxobut-3-en-1-yl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 250 mg | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(C=C)=O | C20H19N3O3S3
reactant | methylhydrazine | 0.050 mL | CNN | CH6N2
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-(2-{5-[(1-methyl-4,5-dihydro-1H-pyrazol-3-yl)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide | 156 mg, yield: 59% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC1=NN(CC1)C | C21H23N5O2S3
